US07582775B2
Preparation of methanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophen-5-yl ester
A solution of 1-{4-[1-ethyl-1-(5-hydroxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (260 mg, 0.612 mmol) in CH2Cl2 (20 mL) at RT is treated with Et3N (0.40 mL) and methanesulfonyl chloride (140 mg, 1.22 mmol). The mixture is stirred for 30 min and quenched with water (1.0 mL). The organic layer is concentrated and purified using silica gel column chromatography (25% EtOAc/Hex) to afford the title compound (190 mg, 62%). NMR (ppm, CDCl3), δ: 7.67 (1 H, d, J=8.8 Hz), 7.59 (1 H, d, J=2.2 Hz), 7.13 (1 H, dd, J=2.2, 8.8 Hz), 7.11 (1 H, s), 7.01-7.04 (2 H, m), 6.51 (1 H, d, J=8.4 Hz), 4.84 (2 H, s), 3.16 (3 H, s), 2.26 (3 H, s), 2.15 (4 H, q, J=7.5 Hz), 1.26 (9 H, s), 0.74 (6H, t, J=7.5 Hz).

reactant | 1-{4-[1-ethyl-1-(5-hydroxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 0.612 mmol, 260 mg | C(C)C(CC)(C1=CC2=C(S1)C=CC(=C2)O)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C26H32O3S
reactant | Et3N | 0.40 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.22 mmol, 140 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophen-5-yl ester | 190 mg, 62% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC2=C(S1)C=CC(=C2)OS(=O)(=O)C)C)=O)(C)C | C27H34O5S2
